US08349824B2
A mixture of 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (150 mg, 455 μmol), pyrrolidine (226 μl, 2.73 mmol), propylphosphonic anhydride (50% in ethyl acetate, 671 μl, 1.14 mmol) and diisopropylethylamine (239 μl, 1.37 mmol) in tetrahydrofurane (8 ml) is stirred for 18 hours at 70° C. under nitrogen atmosphere. The solvent is evaporated and the residue triturated with sat. aqueous sodium hydrogencarbonate solution. The precipitated solid is collected by filtration, washed with water and dried affording N-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-4-(pyrrolidine-1-carbonyl)-1H-pyrazole-5-carboxamide (155 mg, 89%) as a light brown solid. Mp.: 199-201° C. MS: m/z=383.4 (M+H+).

reactant | 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 455 μmol, 150 mg | CN(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)C | C14H15N7O3
reactant | pyrrolidine | 2.73 mmol, 226 μl | N1CCCC1 | C4H9N
reactant | propylphosphonic anhydride | 1.14 mmol, 671 μl | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethylamine | 1.37 mmol, 239 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofurane | 8 ml | O1CCCC1 | C4H8O
product | N-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-4-(pyrrolidine-1-carbonyl)-1H-pyrazole-5-carboxamide | 155 mg, 89% | CN(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)N2CCCC2)=N1)C | C18H22N8O2
